US04736046
A 3-dimethylsilyl-5-methyl-2-oxazolidinone was prepared in accordance with the following procedure. A stirred mixture of 60.6 grams of 5-methyl-2-oxazolidinone and 62.4 grams of triethylamine was prepared in a tetrahydrofuran solvent. To this mixture, 67.5 ml of dimethylchlorosilane was added dropwise over a period of 90 minutes.

reactant | 5-methyl-2-oxazolidinone | 60.6 grams | CC1CNC(O1)=O | C4H7NO2
reactant | triethylamine | 62.4 grams | C(C)N(CC)CC | C6H15N
reactant | dimethylchlorosilane | 67.5 ml | C[SiH](Cl)C | C2H7ClSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-dimethylsilyl-5-methyl-2-oxazolidinone | C[SiH](N1C(OC(C1)C)=O)C | C6H13NO2Si
